US04411899
3-(3-Chloro-2-hydroxypropoxy)benzaldehyde
A mixture of 3-hydroxybenzaldehyde (24.4 g, 0.2 mol), epichlorohydrin (47 ml) and pyridine (0.4 ml) is heated 5 hours on a steam bath. The crude mixture is partitioned between methylenechloride-water and the CH2Cl2 extract washed with dilute aqueous NaHCO3, dried (Na2SO4), filtered and concentrated in vacuo to give the crude title product. Distillation gives a colorless oil bp 160° (0.2 mm); 21.2 g.

reactant | 3-hydroxybenzaldehyde | 0.2 mol, 24.4 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | epichlorohydrin | 47 ml | C(Cl)C1CO1 | C3H5ClO
solvent | pyridine | 0.4 ml | N1=CC=CC=C1 | C5H5N
product | 3-(3-Chloro-2-hydroxypropoxy)benzaldehyde | ClCC(COC=1C=C(C=O)C=CC1)O | C10H11ClO3
